US08304446B2
N-[1-{[3-(Aminomethyl)phenyl]methyl}-4-(1-hydroxyethyl)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide
Sodium borohydride (20.52 mg, 0.543 mmol) was added to a stirring solution of 1,1-dimethylethyl({3-[(4-acetyl-3-{[(5-chloro-2-thienyl)sulfonyl]amino}-1H-indazol-1-yl)methyl]phenyl}methyl)carbamate (for a preparation see Intermediate 75) (260 mg, 0.452 mmol) in MeOH (5 mL) at 25° C. under N2. The reaction mixture was stirred at room temp for 2 h. About ˜⅔ of the methanol was evaporated in vacuo and the residue was treated slowly with 1M HCl (5 mL). The product was extracted with EtOAc (2×40 mL) and the combined organic layers were dried by passing through a hydrophobic frit and concentrated to afford a yellow oil. 4N HCl in Dioxane (2 mL, 8.00 mmol) was added to the residue at 25° C. and the reaction mixture was stirred for 30 min. The crude sample was loaded straight on to a pre-washed (MeOH) SPE sulphonic acid (SCX-2) cartridge (20 g). The SCX cartridge was washed with 2 column volumes of MeOH and the product was collected by washing with 3 column volumes of 2N Ammonia in MeOH. The appropriate fractions were combined and evaporated in vacuo to give the title compound (235 mg, 91)%. LCMS (System A) RT=0.77 min, ES+ve m/z 477/479 (M+H)+.

reactant | Sodium borohydride | 0.543 mmol, 20.52 mg | [BH4-].[Na+]
reactant | 1,1-dimethylethyl({3-[(4-acetyl-3-{[(5-chloro-2-thienyl)sulfonyl]amino}-1H-indazol-1-yl)methyl]phenyl}methyl)carbamate | CC(C)(C)N(C([O-])=O)CC1=CC(=CC=C1)CN1N=C(C2=C(C=CC=C12)C(C)=O)NS(=O)(=O)C=1SC(=CC1)Cl
reactant | HCl | 4N | Cl | ClH
reactant | Dioxane | 8.00 mmol, 2 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 5 mL | CO | CH4O
product | N-[1-{[3-(Aminomethyl)phenyl]methyl}-4-(1-hydroxyethyl)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)C(C)O)NS(=O)(=O)C=1SC(=CC1)Cl | C21H21ClN4O3S2
